US05221750
Synthesis of Compound (15), 5-t-butyl-2-(4-nitro-2-trifluoromethylphenyl)-4-isoxazolin-3-one:
After mixing 15 g of 2-chloro-5-nitrobenzotrifluoride, 11.3 g of 5-t-butyl-3-hydroxyisoxazole, 11.0 g of potassium carbonate, and 80 ml of dimethyl sulfoxide, the reaction was performed for 5 hours at 80° C. After the reaction was over, the reaction mixture was cooled and extracted with ethyl acetate and water. The organic phase thus formed was recovered and applied to silica gel column chromatography. The main product thus obtained was recrystallized from a mixture of methanol and water to provide 8.8 g of the desired product with a yield of 40.1%. The melting point thereof was 59° C. to 60° C.

reactant | 2-chloro-5-nitrobenzotrifluoride | 15 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H3ClF3NO2
reactant | 5-t-butyl-3-hydroxyisoxazole | 11.3 g | C(C)(C)(C)C1=CC(=NO1)O | C7H11NO2
reactant | potassium carbonate | 11.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 80 ml | CS(=O)C | C2H6OS
product | 5-t-butyl-2-(4-nitro-2-trifluoromethylphenyl)-4-isoxazolin-3-one | 8.8 g, yield of 40.1% | C(C)(C)(C)C1=CC(N(O1)C1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F)=O | C14H13F3N2O4
